US05665718
3.30 g (10 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at room temperature for 2.5 hours with 3 g (50 mmol) of isopropylamine and 20 ml of N,N-dimethylformamide. After evaporating the solvent the residue was dissolved in methylene chloride and the solution was washed twice with water. The organic solution was dried over magnesium sulfate and concentrated. By recrystallizing the residue from ethyl acetate there were obtained 2.37 g (67%) of 3-(5-isopropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 142°-144°, which was converted into the hydrochloride of m.p. 252°-254°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.30 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | isopropylamine | 50 mmol, 3 g | C(C)(C)N | C3H9N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(5-isopropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 2.37 g, 67% | C(C)(C)NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C18H20N6O2
